US06048894
(3) Preparation of tert-butyl (2RS,3RS)-2-{5-(phenylcarbamoyl)-2-furylmethyl}-3-{(E)-3-phenyl-2-propenylamino}butanoate
3.0 g of tert-butyl (2RS,3SR)-3-hydroxy-2-{5-(phenylcarbamoyl)-2-furylmethyl}butanoate in 50 ml of tetrahydrofuran was mixed with 3.25 g of triphenylphosphine, 2.0 ml of diethyl azodicarboxylate and 2.7 ml of diphenylphosphoryl azide under cooling with ice under stirring and then stirred at room temperature for 18 hours. The reaction solution was evaporated to dryness under reduced pressure, and the residue was purified by silica gel column chromatography [hexane/ethyl acetate=10/1→2/1]. The resulting azide was refluxed together with 3.25 g of triphenylphosphine in 55 ml of 10% hydrous tetrahydrofuran for 2 hours under heating. The reaction solution was cooled to room temperature, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography [hexane/ethyl acetate=1/1→ethyl acetate→chloroform/methanol=10/1→5/1]. The resulting amine and 1.6 ml of trans-cinnamaldehyde were dissolved in 50 ml of methanol and stirred at 70° C. for 1.5 hours under heating. The reaction solution was cooled to 0° C. and then stirred with 800 mg of sodium borohydride at the same temperature for 15 minutes and then at room temperature for 24 hours. Water was added under cooling with ice, and the reaction solution was stirred at room temperature for 30 minutes. The solvent was distilled off under reduced pressure. The residue was mixed with ethyl ether and washed with 1N hydrochloric acid, water, saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride successively and then dried over anhydrous sodium sulfate. The desiccant was filtered off, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography [hexane/ethyl acetate=2/1→1/1] to give 1.05 g of the title compound as a yellow oily substance.

reactant | tert-butyl (2RS,3SR)-3-hydroxy-2-{5-(phenylcarbamoyl)-2-furylmethyl}butanoate | 3.0 g | OC(C(C(=O)OC(C)(C)C)CC=1OC(=CC1)C(NC1=CC=CC=C1)=O)C | C20H25NO5
reactant | triphenylphosphine | 3.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.0 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diphenylphosphoryl azide | 2.7 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | tert-butyl (2RS,3RS)-2-{5-(phenylcarbamoyl)-2-furylmethyl}-3-{(E)-3-phenyl-2-propenylamino}butanoate | 1.05 g | C1(=CC=CC=C1)NC(=O)C1=CC=C(O1)CC(C(=O)OC(C)(C)C)C(C)NC\C=C\C1=CC=CC=C1 | C29H34N2O4
